US05336677
6-Methyl-5-(2-propyl)-2-trifluoromethyl-4H-pyrimidin-4-one
Ethyl 2-isopropylacetoacetate (35.8 mL, 0.2 mol) was mixed with trifluoroacetamidine (23 g, 0.2 mol) in MeOH, and then NaOCH3 (21.6 g, 0.4 mol) was added. The mixture was refluxed for 18 h then evaporated to dryness. The residue was taken up in H2O (200 mL) and extracted with ether. The aqueous solution was reduced in volume and acidified with acetic acid to pH 5 then extracted with EtOAc. The combined organic extracts were washed with a small quantity of water, dried over Na2SO4, then evaporated to afford 28 g of an oil. The crude product was purified by flash chromatography (CHCl3) to provide 16 g (36% yield) of pure compound.

reactant | Ethyl 2-isopropylacetoacetate | 0.2 mol, 35.8 mL | C(C)(C)C(C(=O)OCC)C(=O)C | C9H16O3
reactant | trifluoroacetamidine | 0.2 mol, 23 g | FC(C(=N)N)(F)F | C2H3F3N2
reactant | NaOCH3 | 0.4 mol, 21.6 g | O([Na])C
solvent | MeOH | CO | CH4O
product | 6-Methyl-5-(2-propyl)-2-trifluoromethyl-4H-pyrimidin-4-one | 28 g | CC1=C(C(NC(=N1)C(F)(F)F)=O)C(C)C | C9H11F3N2O
